US05019590
Bis(trimethylsilyl)methyllithium was prepared according to a procedure of Grobel and Seebach (B.Th. Grobel and D. Seebach, Chem. Ber.,1110, 852 (1977)); to a solution of bis(trimethylsilyl)methane (2.85 ml, 13.3 mmol) in THF (20 ml) and HMPT (5 ml) at -78° C. was added dropwise via syringe a solution of s-BuLi (7.66 ml of 1.74 M in pentane). The resultant pale green solution was allowed to warm to -40° C. After 8 h at -40° C., the resultant red solution was cooled to -78° C. and a solution of bicyclo[4.3.1]dec-2-ene-10-one2 (2.00 g, 13.3 mmol) in THF (5 ml) was added. The reaction was allowed to warm to -5° C. over 13 h, then stirred with H2O (50 ml) and extracted into hexane (2×50 ml). The combined hexane layers were washed with H2O (4×100 ml) and brine (100 ml), dried over Na2SO4 and evaporated to give 3.00 g of yellow oil, which was purified via column chromatography with silica gel. After elution with EtOAc/hexane, some starting ketone, 0.35 g, was recovered and the desired diene 3 was isolated as a colorless oil, 1.64 g (56.0% yield).

reactant | bis(trimethylsilyl)methane | 13.3 mmol, 2.85 ml | C[Si](C)(C)C[Si](C)(C)C | C7H20Si2
reactant | s-BuLi | 1.74 M, 7.66 ml | [Li]C(C)CC
reactant | H2O | 50 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | HMPT | 5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Bis(trimethylsilyl)methyllithium | 56.0% yield | C[Si](C)(C)C([Si](C)(C)C)[Li] | InChI=1S/C7H19Si2.Li/c1-8(2,3)7-9(4,5)6;/h7H,1-6H3;
